*CONDUCTION NMOS W1

.INCLUDE 22nm_HP.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18
*.INCLUDE A012.sub

*Definizione dei parametri
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n
.PARAM SUPPLY=0.8
.global vdd gnd
Vx vdd gnd 'SUPPLY'

Vin1 Va gnd 0
Vin2 Vb gnd 0
Vin3 Vc gnd 0

Mp1 drain_mp1 Va source_mp1 body_mp1 pmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mp2 drain_mp2 Vb source_mp2 body_mp2 pmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mp3 drain_mp3 Vc source_mp3 body_mp3 pmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mp4 drain_mp4 Vout_c source_mp4 body_mp4 pmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn1 drain_mn1 Va source_mn1 body_mn1 nmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn2 drain_mn2 Vb source_mn2 body_mn2 nmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn3 drain_mn3 Vc source_mn3 body_mn3 nmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn4 drain_mn4 Vout_c source_mn4 body_mn4 nmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

V_source_mp1 source_mp1 vdd  0
V_source_mp2 source_mp2 vdd  0
V_connect1 drain_mp1 V_im 0
V_connect2 drain_mp2 V_im 0
V_source_mp3 source_mp3 V_im  0
V_source_mp4 source_mp4 vdd  0

V_drain_mp1 drain_mp1 V_im 0
V_drain_mp2 drain_mp2 V_im 0
V_drain_mp3 drain_mp3 Vout_c 0
V_drain_mp4 drain_mp4 Vout 0

V_body_mp1 body_mp1 gnd 'SUPPLY'
V_body_mp2 body_mp2 gnd 'SUPPLY'
V_body_mp3 body_mp3 gnd 'SUPPLY'
V_body_mp4 body_mp4 gnd 'SUPPLY'

V_drain_mn1 drain_mn1 Vout_c 0
V_drain_mn2 drain_mn2 source_mn1 0
V_drain_mn3 drain_mn3 Vout_c 0
V_drain_mn4 drain_mn4 Vout 0

V_body_mn1 body_mn1 gnd 0
V_body_mn2 body_mn2 gnd 0
V_body_mn3 body_mn3 gnd 0
V_body_mn4 body_mn4 gnd 0

V_source_mn1 source_mn1 drain_mn2 0
V_source_mn2 source_mn2 gnd 0
V_source_mn3 source_mn3 gnd 0
V_source_mn4 source_mn4 gnd 0

Vz Vout_c drain_mn3 0

*Definizione del tipo di analisi
.CONTROL

*Voltages: drain gate source
*Current: drain gate source body

dc TEMP 85 85 85
print  V(drain_mp1) V(Va) V(source_mp1)
print I(V_drain_mp1) I(Vin1) I(V_source_mp1) I(V_body_mp1)
print  V(drain_mp2) V(Vb) V(source_mp2)
print I(V_drain_mp2) I(Vin2) I(V_source_mp2) I(V_body_mp2)
print  V(drain_mp3) V(Vc) V(source_mp3)
print I(V_drain_mp3) I(Vin3) I(V_source_mp3) I(V_body_mp3)
print  V(drain_mp4) V(Vout_c) V(source_mp4)
print I(V_drain_mp4) I(Vz) I(V_source_mp4) I(V_body_mp4)

print  V(drain_mn1) V(Va) V(source_mn1)
print I(V_drain_mn1) I(Vin1) I(V_source_mn1) I(V_body_mn1)
print  V(drain_mn2) V(Vb) V(source_mn2)
print I(V_source_mn1) I(Vin2) I(V_source_mn2) I(V_body_mn2)
print  V(drain_mn3) V(Vc) V(source_mn3)
print I(V_drain_mn3) I(Vin3) I(V_source_mn3) I(V_body_mn3)
print  V(drain_mn4) V(Vout_c) V(source_mn4)
print I(V_drain_mn4) I(Vz) I(V_source_mn4) I(V_body_mn4)

quit
.ENDC
.END
