.subckt AND Va Vb Vc Vout vdd gnd

.INCLUDE NAND_3/NAND.sub
.INCLUDE INVERTER/INVERTER.sub

x1 Va Vb Vc Vout1 vdd gnd NAND
x2 Vout1 Vout vdd gnd INVERTER

.ends AND